US08030489B2
To a mixture of (1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylic acid (0.88 g) and DMF (8.0 ml) were added cesium carbonate (2.5 g) and methyl iodide (0.82 g) under ice-cooling, followed by stirring at room temperature for 1.5 hours. To the reaction mixture ethyl acetate and water under ice-cooling were added. The organic layer was separated, the aqueous layer was extracted with ethyl acetate (15 ml), and the organic layer was combined and washed with a 10% aqueous citric acid solution, a saturated sodium bicarbonate solution, water, and saturated brine in this order. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain methyl (1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylate (0.85 g).

reactant | (1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylic acid | 0.88 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCC1)C(=O)O | C11H19NO4
reactant | DMF | 8.0 ml | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 2.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.82 g | CI | CH3I
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylate | 0.85 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCC1)C(=O)OC | C12H21NO4
